US06300352B1
a) 3-Bromo-5-trifluoromethylbenzenesulfonamide
3-Amino-5-bromobenzotrifluoride was added to concentrated hydrochloric acid (20 ml) and cooled to −5° C. A saturated solution of sodium nitrite (3.88 g) in water (4 ml) was dropwise added at such a rate to maintain the temperature below 0° C. Magnesium chloride (8 g) was added (CARE: exotherm) and the resulting mixture added with stirring to a saturated solution of sulfur dioxide in acetic acid (37.5 ml) and toluene (20 ml), containing cupric chloride (2.75 g) at room temperature. The mixture was stirred for 16 hours, poured into water and extracted into toluene. The combined toluene extracts were washed with water, dilute sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The residue was dissolved in tetrahydrofuran (200 ml) and 880 ammonia (50 ml) was added to the solution. The mixture was stirred at room temperature for 4 hours and then concentrated under reduced pressure. The residue was partitioned between water and ethyl acetate. The combined ethyl acetate extracts were dried over anhydrous magnesium sulfate and concentrated to afford the sub-title compound as a solid (4.2 g).

reactant | 3-Amino-5-bromobenzotrifluoride | NC=1C=C(C=C(C1)Br)C(F)(F)F | C7H5BrF3N
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | sodium nitrite | 3.88 g | N(=O)[O-].[Na+]
reactant | Magnesium chloride | 8 g | [Cl-].[Mg+2].[Cl-]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 4 ml | O | H2O
solvent | acetic acid | 37.5 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-5-trifluoromethylbenzenesulfonamide | 4.2 g | BrC=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)N | C7H5BrF3NO2S
